US05821246
Using an analogous procedure to that described in Example 1 except that the reaction mixture was heated to reflux for 16 hours, 4-amino-2-chlorophenyl phenyl ether was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 4-(3-chloro-4-phenoxyanilino)-6,7-dimethoxyquinazoline hydrochloride salt in 56% Yield, m.p. 260°-265° C.;

reactant | 4-amino-2-chlorophenyl phenyl ether | C1(=CC=CC=C1)OC1=C(C=C(C=C1)N)Cl | C12H10ClNO
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 4-(3-chloro-4-phenoxyanilino)-6,7-dimethoxyquinazoline hydrochloride salt | 56% Yield | Cl.ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1OC1=CC=CC=C1 | InChI=1S/C22H18ClN3O3.ClH/c1-27-20-11-16-18(12-21(20)28-2)24-13-25-22(16)26-14-8-9-19(17(23)10-14)29-15-6-4-3-5-7-15;/h3-13H,1-2H3,(H,24,25,26);1H
